*  RCL-ELECTRO OpAmp Library
*  Ver.07
*  Install Path: ../lib/sym/RCL-ELECTRO.RU/RCL-ELECTRO.lib
*
* K544UD1 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 43dB@20kHz
* CREATED ON 06/25/2019 AT 01:00
* YuriyB	Sagittarius     Rus2000
* WWW.RCL-ELECTRO.RU
* (REV 01)      SUPPLY VOLTAGE: +/-15V
* Without Zero Correction Pins
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | | FCORRECTION PIN 1
*                | | | | | | FCORRECTION PIN 14
*                | | | | | | |
.SUBCKT 544UD1   In+ In- V+ V- OUT
*
Q17 N013 N012 Out 0 PN
Q9 N002 N004 N001 0 PN
Q8 V- N007 N004 0 PN
Q1 N009 N006 ZC1 0 PN
Q10 N002 N003 N016 0 NP
Q11 V+ N002 N005 0 NP
Q12 N005 N005 N010 0 NP
Q6 N011 N003 N014 0 NP
Q13 N005 N010 N013 0 NP
Q15 V+ N005 N008 0 NP
Q7 N003 N003 N015 0 NP
Q18 V- N013 N012 0 PN
D4 N002 N007 DD
Q3 V- N009 N006 0 PN
Q2 N007 N006 ZC8 0 PN
R1 V+ ZC1 1k6
R4 N014 V- 170
Q14 N013 N003 N017 0 NP
R12 Out N012 30
R11 N008 Out 30
C1 N002 N007 17p3
R9 N010 N013 3k
J4 N009 In- N011 NJ
R10 N017 V- 11
R8 N016 V- 36
J5 N007 In+ N011 NJ
R2 V+ N006 50k
R3 V+ ZC8 1k6
R5 V+ N003 68k
R6 V+ N004 30k
R7 V+ N001 36
Q16 N002 N008 Out 0 NP
R15 N015 V- 22
.model NJ NJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500 VAF=100)
.model PN LPNP(BF=125 Cje=.3p Cjc=1.5p Rb=250 VAF=70)
.model DD D(Rs=20 Cjo=2p0)
.ends 544UD1
*
*
*
* K544UD2 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 94/53dB@20kHz
* CREATED ON 06/14/2018 AT 12:46
* Sagittarius     Rus2000
* WWW.RCL-ELECTRO.RU
* (REV 01)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | | FCORRECTION PIN 1
*                | | | | | | FCORRECTION PIN 8
*                | | | | | | |
.SUBCKT 544UD2_   In+ In- V+ V- OUT FC1 FC8
Q2 N005 N001 V+ 0 PN
Q3 N001 N001 V+ 0 PN
Q12 N001 N001 V+ 0 PN
Q17 N006 N001 V+ 0 PN
Q4 N012 N005 N001 0 PN
Q13 N013 N006 N001 0 PN
Q5 N016 N015 N012 0 PN
Q14 N017 N015 N013 0 PN
Q8 N010 N010 N015 0 NP
J1 N005 In- N021 NJ
J18 N006 In+ N021 NJ
Q15 N017 N027 N035 0 NP
Q16 N035 N034 N042 0 NP
Q9 N024 N016 N027 0 NP
Q6 N016 N027 N034 0 NP
Q7 N034 N034 N041 0 NP
Q10 N031 N031 N040 0 NP
Q11 N040 N040 V- 0 NP
Q20 N037 N036 N044 0 NP
Q19 N021 N029 N037 0 NP
Q21 N021 N026 N029 0 NP
Q24 N026 N029 N036 0 NP
Q25 N036 N036 N045 0 NP
Q23 N023 N014 N026 0 NP
R1 N044 V- 230
R2 N045 V- 430
R3 N014 N023 110
R4 N010 N006 750
R5 N005 N010 750
R6 N009 N005 4k
R7 N027 N031 30k
R8 N042 V- 240
R9 N041 V- 240
Q26 N008 N002 V+ 0 PN
Q22 N014 N008 N002 0 PN
Q27 N008 N008 N015 0 NP
R10 V+ N002 1k6
R11 N006 N007 1k
R12 FC1 N006 200
Q28 N019 N023 N026 0 NP
R13 N015 N019 27k
R14 V+ N003 40k
D1 FC8 N003 DX
R15 FC8 N011 40k
D2 N015 N011 DX
C1 FC8 N017 7p
J34 V+ N017 N018 NJ
Q38 V+ N018 N020 0 NP
Q33 N007 N004 V+ 0 PN
R16 V+ N004 36
R19 N043 V- 36
Q41 N004 N020 N022 0 NP
R20 N022 OUT 36
R21 OUT N028 36
Q42 N043 N030 N028 0 PN
Q39 N020 N020 N025 0 NP
Q35 N020 N025 N030 0 NP
R17 N025 N030 40k
Q40 N036 N043 V- 0 NP
Q37 N039 N036 N047 0 NP
R18 N047 V- 240
Q31 N038 N036 N046 0 NP
R22 N046 V- 560
Q29 N032 N032 N036 0 NP
R23 N029 N032 6k6
Q30 N018 N029 N038 0 NP
Q36 N030 N033 N039 0 NP
Q32 V- N036 N033 0 PN
R24 N019 N033 18k
D3 N017 N024 DX
* 3 (IN+)
* 2 (IN-)
* 1 (NC/FC)
* 8 (FC)
* 5 (NC)
.model NJ NJF
.model NP NPN(BF=250 Cje=.3p Cjc=.3p Rb=500 VAF=100)
.model PN LPNP(BF=200 Cje=.4p Cjc=.4p Rb=250 VAF=100)
.model DX D(Is=2.52n Rs=.568 N=1.752 Cjo=0.4p M=.4 Tt=20n)
.ends 544UD2
*
*
*
* K544UD2A OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 85/54dB@20kHz
* CREATED ON 01/05/Z0ZZ AT 0Z:ZZ
* Rus2000
* WWW.RCL-ELECTRO.RU
* (REV 14)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | | FCORRECTION PIN 1
*                | | | | | | FCORRECTION PIN 8
*                | | | | | | |
.SUBCKT 544UD2A_   In+ In- V+ V- OUT FC1 FC8
Q2 N005 N001 V+ 0 PN
Q3 N001 N001 V+ 0 PN
Q12 N001 N001 V+ 0 PN
Q17 N006 N001 V+ 0 PN
Q4 N012 N005 N001 0 PN
Q13 N013 N006 N001 0 PN
Q5 N016 N015 N012 0 PN
Q14 N017 N015 N013 0 PN
Q8 N010 N010 N015 0 NP
J1 N005 In- N021 NJ
J18 N006 In+ N021 NJ
Q15 N017 N027 N035 0 NP
Q16 N035 N034 N042 0 NP
Q9 N024 N016 N027 0 NP
Q6 N016 N027 N034 0 NP
Q7 N034 N034 N041 0 NP
Q10 N031 N031 N040 0 NP
Q11 N040 N040 V- 0 NP
Q20 N037 N036 N044 0 NP
Q19 N021 N029 N037 0 NP
Q21 N021 N026 N029 0 NP
Q24 N026 N029 N036 0 NP
Q25 N036 N036 N045 0 NP
Q23 N023 N014 N026 0 NP
R1 N044 V- 230
R2 N045 V- 430
R3 N014 N023 110
R4 N010 N006 750
R5 N005 N010 750
R6 N009 N005 4k
R7 N027 N031 30k
R8 N042 V- 240
R9 N041 V- 240
Q26 N008 N002 V+ 0 PN
Q22 N014 N008 N002 0 PN
Q27 N008 N008 N015 0 NP
R10 V+ N002 1k4
R11 N006 N007 1k
R12 FC1 N006 200
Q28 N019 N023 N026 0 NP
R13 N015 N019 27k
R14 V+ N003 40k
D1 FC8 N003 DX
R15 FC8 N011 40k
D2 N015 N011 DX
C1 FC8 N017 15p
J34 V+ N017 N018 NJ
Q38 V+ N018 N020 0 NP
Q33 N007 N004 V+ 0 PN
R16 V+ N004 56
R19 N043 V- 56
Q41 N004 N020 N022 0 NP
R20 N022 OUT 36
R21 OUT N028 36
Q42 N043 N030 N028 0 PN
Q39 N020 N020 N025 0 NP
Q35 N020 N025 N030 0 NP
R17 N025 N030 5k
Q40 N036 N043 V- 0 NP
Q37 N039 N036 N047 0 NP
R18 N047 V- 240
Q31 N038 N036 N046 0 NP
R22 N046 V- 560
Q29 N032 N032 N036 0 NP
R23 N029 N032 6k6
Q30 N018 N029 N038 0 NP
Q36 N030 N033 N039 0 NP
Q32 V- N036 N033 0 PN
R24 N019 N033 18k
D3 N017 N024 DX
* 3 (IN+)
* 2 (IN-)
* 1 (NC/FC)
* 8 (FC)
* 5 (NC)
.model NJ NJF(VTO=-0.8 BETA=.5m LAMBDA=0.01 RD=40 RS=30 IS=1e-13 CGD=3p CGS=5p PB=1 B=1 KF=9E-17 AF=1.4 FC=0.5)
.model NP NPN(BF=150 Cje=7p Cjc=3p Rb=500 VAF=80)
.model PN LPNP(BF=50 Cje=9p Cjc=5p Rb=250 VAF=50)
.model DX D(Is=2.52n Rs=.568 N=1.752 Cjo=0.4p M=.4 Tt=20n)
.ends 544UD2A
*
*
*
* LM318N OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 61dB@20kHz
* CREATED ON 06/20/2018 AT 13:08
* Sagittarius     Rus2000      WWW.RCL-ELECTRO.RU
* (REV 01)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:     NON-INVERTING INPUT
*                  | INVERTING INPUT
*                  | | POSITIVE POWER SUPPLY
*                  | | | NEGATIVE POWER SUPPLY
*                  | | | | OUTPUT
*                  | | | | | FCORRECTION PIN 1
*                  | | | | | | FCORRECTION PIN 5
*                  | | | | | | | FCORRECTION PIN 8
*                  | | | | | | | |
.SUBCKT LM318-61 In+ In- V+ V- OUT FC1 FC5 FC8
Q1 FC5 In- N013 0 NP
Q14 FC5 N004 N001 0 PN
Q3 FC5 N013 N016 0 NP
Q2 FC1 In+ N014 0 NP
Q4 FC1 N014 N018 0 NP
R8 N016 N017 1k
R9 N017 N018 1k
Q11 FC5 FC5 FC1 0 NP
Q12 FC1 FC1 FC5 0 NP
Q15 FC1 N004 N002 0 PN
Q13 N006 N006 N004 0 PN
R10 FC5 N006 20k
R11 N006 FC1 20k
R12 V+ N001 2k
R13 V+ N002 2k
R14 V+ N004 150k
Q16 N015 FC1 N007 0 PN
Q17 FC8 FC5 N008 0 PN
R15 N005 N007 5k
R16 N005 N008 5k
Q251 N009 N005 V+ 0 PN
Q250 N005 N005 N003 0 PN
R19 N009 N010 13
R20 N012 N021 3k
Q27 N010 N012 N021 0 NP
Q35 In- N023 In+ 0 NP
Q34 In- In- N023 0 NP
Q36 In+ N025 In- 0 NP
Q37 In+ In+ N025 0 NP
R6 N017 N026 50
R5 N026 N029 2k35
Q6 N026 N017 N029 0 NP
R7 N026 N020 1k7
C1 V+ FC5 100p
Q19 FC8 N032 V- 0 NP
Q18 N015 N032 V- 0 NP
Q200 V+ N015 N032 0 NP
R17 V- N032 1.2k
Q21 V+ FC8 N035 0 NP
Q23 V- N021 FC8 0 PN
R18 N035 V- 1.2k
Q221 N021 N035 V- 0 NP
Q24 N027 N035 P001 0 NP
R24 P001 V- 30
Q31 N028 N027 N024 0 PN
Q300 V- N028 N022 0 PN
Q291 V+ N010 N011 0 NP
Q290 V+ N010 N024 0 NP
R21 N011 OUT 25
R22 N011 N022 33
Q33 N010 N011 OUT 0 NP
Q28 N015 N022 N019 0 PN
Q32 N022 N022 N021 0 NP
R25 N011 N019 3k5
C3 N009 FC1 6p
C2 FC8 FC1 28p
Q26 N010 N009 N012 0 NP
R4 N036 V- 110
R3 N033 V- 60K
R2 N030 N031 1500
R1 N034 V- 5k6
J33 V+ V- N030 NJ
Q201 V+ N015 FC8 0 NP
R26 V+ N003 430
R31 N028 N027 30
Q501 N014 N020 N029 0 NP
Q500 N013 N020 N029 0 NP
Q292 V+ N010 N011 0 NP
Q301 V- N028 N022 0 PN
Q252 N009 N005 V+ 0 PN
Q220 N021 N035 V- 0 NP
Q7 V+ N031 N034 0 NP
Q8 N031 N034 V- 0 NP
Q9 V+ N030 N033 0 NP
Q10 N029 N033 N036 0 NP
* 2 (IN-)
* 3 (IN+)
* 8 (FC)
* 5 (FC)
* 1 (FC)
* 6 (OUT)
* 7 (+Ucc)
* 4 (-Uee)
.model NJ NJF
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500 VAF=80)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250 VAF=80)
.ends LM318-61
*
*
*
* LM318N OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 66dB@20kHz
* CREATED ON 06/20/2018 AT 13:08
* Sagittarius     Rus2000      WWW.RCL-ELECTRO.RU
* (REV 01)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:     NON-INVERTING INPUT
*                  | INVERTING INPUT
*                  | | POSITIVE POWER SUPPLY
*                  | | | NEGATIVE POWER SUPPLY
*                  | | | | OUTPUT
*                  | | | | | FCORRECTION PIN 1
*                  | | | | | | FCORRECTION PIN 5
*                  | | | | | | | FCORRECTION PIN 8
*                  | | | | | | | |
.SUBCKT LM318-66 In+ In- V+ V- OUT FC1 FC5 FC8
Q1 FC5 In- N013 0 NP
Q14 FC5 N004 N001 0 PN
Q3 FC5 N013 N016 0 NP
Q2 FC1 In+ N014 0 NP
Q4 FC1 N014 N018 0 NP
R8 N016 N017 1k
R9 N017 N018 1k
Q11 FC5 FC5 FC1 0 NP
Q12 FC1 FC1 FC5 0 NP
Q15 FC1 N004 N002 0 PN
Q13 N006 N006 N004 0 PN
R10 FC5 N006 20k
R11 N006 FC1 20k
R12 V+ N001 2k
R13 V+ N002 2k
R14 V+ N004 150k
Q16 N015 FC1 N007 0 PN
Q17 FC8 FC5 N008 0 PN
R15 N005 N007 5k
R16 N005 N008 5k
Q251 N009 N005 V+ 0 PN
Q250 N005 N005 N003 0 PN
R19 N009 N010 13
R20 N012 N021 3k
Q27 N010 N012 N021 0 NP
Q35 In- N023 In+ 0 NP
Q34 In- In- N023 0 NP
Q36 In+ N025 In- 0 NP
Q37 In+ In+ N025 0 NP
R6 N017 N026 50
R5 N026 N029 2k35
Q6 N026 N017 N029 0 NP
R7 N026 N020 1k7
C1 V+ FC5 100p
Q19 FC8 N032 V- 0 NP
Q18 N015 N032 V- 0 NP
Q200 V+ N015 N032 0 NP
R17 V- N032 1.2k
Q21 V+ FC8 N035 0 NP
Q23 V- N021 FC8 0 PN
R18 N035 V- 1.2k
Q221 N021 N035 V- 0 NP
Q24 N027 N035 P001 0 NP
R24 P001 V- 30
Q31 N028 N027 N024 0 PN
Q300 V- N028 N022 0 PN
Q291 V+ N010 N011 0 NP
Q290 V+ N010 N024 0 NP
R21 N011 OUT 25
R22 N011 N022 33
Q33 N010 N011 OUT 0 NP
Q28 N015 N022 N019 0 PN
Q32 N022 N022 N021 0 NP
R25 N011 N019 3k5
C3 N009 FC1 3.45p
C2 FC8 FC1 28p
Q26 N010 N009 N012 0 NP
R4 N036 V- 110
R3 N033 V- 60K
R2 N030 N031 1500
R1 N034 V- 5k6
J33 V+ V- N030 NJ
Q201 V+ N015 FC8 0 NP
R26 V+ N003 430
R31 N028 N027 30
Q501 N014 N020 N029 0 NP
Q500 N013 N020 N029 0 NP
Q292 V+ N010 N011 0 NP
Q301 V- N028 N022 0 PN
Q252 N009 N005 V+ 0 PN
Q220 N021 N035 V- 0 NP
Q7 V+ N031 N034 0 NP
Q8 N031 N034 V- 0 NP
Q9 V+ N030 N033 0 NP
Q10 N029 N033 N036 0 NP
* 2 (IN-)
* 3 (IN+)
* 8 (FC)
* 5 (FC)
* 1 (FC)
* 6 (OUT)
* 7 (+Ucc)
* 4 (-Uee)
.model NJ NJF
.model NP NPN(BF=200 Cje=.5p Cjc=.5p Rb=500 VAF=80)
.model PN LPNP(BF=50 Cje=.3p Cjc=1.5p Rb=250 VAF=80)
.ends LM318-66
*
*
*
* K157UD2 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 77dB@20kHz
* CREATED ON 06/23/2019 AT 01:00
* YuriyB	Sagittarius     Rus2000
* WWW.RCL-ELECTRO.RU
* (REV 01)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | | FCORRECTION PIN 1
*                | | | | | | FCORRECTION PIN 14
*                | | | | | | |
.SUBCKT 157UD2   In+ In- V+ V- OUT FC1 FC14
*
Q1 FC14 N001 V+ 0 PN
Q2 N003 N001 V+ 0 PN
Q7 N001 N001 V+ 0 PN
Q11 N005 N001 N002 0 PN
Q9 V- N007 N006 0 PN
Q5 N007 N008 N012 0 NP
Q3 N009 N009 V- 0 NP
Q8 FC14 N008 N012 0 NP
Q10 FC1 N009 V- 0 NP
Q14 N001 N010 N011 0 NP
Q12 FC1 N012 V- 0 NP
Q4 V+ FC14 N007 0 NP
Q6 V+ FC1 N008 0 NP
Q18 V- FC14 N003 0 PN
Q15 N010 N011 V- 0 NP
D4 FC1 FC14 DD
Q16 FC1 In+ N005 0 PN
Q19 N009 In- N005 0 PN
R1 V+ N002 5k
R2 N011 V- 1k
R3 N008 N012 50k
R4 N012 V- 100
Q17 V+ OUT FC14 0 NP
Q20 V- OUT FC14 0 PN
Q21 V+ N003 N004 0 NP
R5 N004 OUT 30
R6 OUT N006 30
J1 V+ V- N010 NJ
.model NJ NJF
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500 VAF=100)
.model PN LPNP(BF=125 Cje=.3p Cjc=1.5p Rb=250 VAF=70)
.model DD D(Rs=20 Cjo=1p4)
.ends 157UD2
*
*
*
* K153UD1 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 03
* CREATED ON 02/24/2020 AT 20:30
* Sagittarius     Rus2000
* WWW.RCL-ELECTRO.RU
* (REV 01)      SUPPLY VOLTAGE: +/-15V
* With All Correction Pins
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | | FCORRECTION PIN 1
*                | | | | | | FCORRECTION PIN 8
*                | | | | | | | FCORRECTION PIN 5
.SUBCKT 153UD1   In+ In- V+ V- OUT FC1 FC8 FC5
*
Q1 N003 In+ N012 0 NP
Q2 FC1 In- N012 0 NP
Q3 N012 N013 N015 0 NP
Q4 N001 N006 N010 0 NP
Q5 V+ FC8 N004 0 NP
Q6 N013 N013 N016 0 NP
Q7 V+ N005 OUT 0 NP
Q8 N005 FC5 N014 0 NP
R1 N002 N003 25k
R2 N015 V- 2k4
R3 N002 FC1 25k
R4 N001 V+ 10k
R5 N011 N010 3.6k
R6 N013 N011 18k
R8 V+ N005 20k
R9 FC5 N014 10k
R10 OUT N008 30k
R12 V- N014 75
R18 N004 N008 1k
Q10 V+ N001 N002 0 NP
Q11 N001 N003 N006 0 NP
R7 N006 N009 3k
Q12 FC8 N007 N010 0 NP
R19 FC8 V+ 10k
Q13 FC8 FC1 N007 0 NP
R20 N007 N009 3k
Q14 N009 N009 N010 0 NP
R21 N011 N008 10k
Q15 FC5 N010 N008 0 PN
Q16 V- N005 OUT 0 PN
R23 N016 V- 1
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500 VAF=80)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250 VAF=80)
.backanno
.end 153UD1
*
*
* K574UD1 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* VERSION 07
* 60dB@20kHz
* CREATED ON 04/20/2020 AT 22:00
* Sagittarius     Rus2000
* WWW.RCL-ELECTRO.RU
* (REV 01)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | | NCORRECTION PIN 1
*                | | | | | | FCORRECTION PIN 5
*                | | | | | | |
.SUBCKT 574UD1   In+ In- V+ V- OUT NC FC
J3 N012 IN+ N005 PJ
J1 N005 V+ V+ PJ
J2 N013 IN- N005 PJ
Q6 N012 N015 N019 0 NP
Q10 N006 N004 N002 0 PN
Q4 V+ N013 N015 0 NP
Q5 N013 N015 N018 0 NP
Q7 V+ N012 N016 0 NP
Q8 N006 N016 N020 0 NP
R1 NC N013 1k
R2 N018 V- 240
R3 N015 V- 4k7
R4 N019 V- 240
R5 N016 V- 5k6
R6 FC N012 500
R7 N020 V- 510
Q9 V+ N001 N002 0 NP
R8 V+ N001 6k2
D2 V+ P001 DX
D3 P001 N001 DX
C1 N006 FC 2p
D1 N012 N006 DX
Q11 N001 N016 N021 0 NP
R9 N021 V- 1k6
Q12 N004 N004 N003 0 PN
R10 N004 V- 33k
Q13 V+ N006 N007 0 NP
Q180 V+ N007 N008 0 NP
Q181 V+ N007 N008 0 NP
Q14 N007 N009 N011 0 NP
Q15 N009 N011 N014 0 NP
R12 N011 N014 1k
Q16 N014 N016 N022 0 NP
Q19 N017 N014 N010 0 PN
R11 N022 V- 1k
R15 N017 V- 5k
Q20 N008 N017 V- 0 NP
Q17 N004 N010 OUT 0 NP
R13 N008 N010 30
R14 N010 OUT 30
D4 V+ P002 DX
D5 P002 P003 DX
D6 OUT N011 DX
D7 P003 N003 DX
D8 N007 N009 DX
.model PJ PJF
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500 VAF=80)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250 VAF=80)
.model DX D(Is=2.52n Rs=.568 N=1.752 Cjo=0.4p M=.4 Tt=20n)
.ends 574UD1