* Qspice Library
* (C) Marcos Alonso - February 2024
* For educational purpose only
*
*
********************************************
* Ideal comparator
********************************************
.subckt comparator in+ in- out
E1 out 0 Value = {if(V(in+, in-)>0, {Vhigh}, {Vlow})}
Rin+ in+ 0 10Meg
Rin- in- 0 10Meg
.ends comparator

*****************************************************
* Basic Operational Amplifier
* Ri, input resistance; Ro, output resistace
* Ao, DC gain; FBW, 0-dB crossover frequency
*****************************************************
.subckt Opamp in+ in- out
Ri in+ in- {Ri}
E1 a 0 value={Ao*V(in+, in-)}
R1 a b 1
C1 b 0 {1/( 2*pi*1*(FBW/Ao) )}
E2 c 0 value={v(b)}
Ro c out {Ro}
.ends Opamp
